US08071608B2
Intermediate AH3: 5-amino-1-(2-bromo-6-chlorophenyl)-1H-pyrazole-4-carbonitrile
(2-Bromo-6-chlorophenyl)hydrazine hydrochloride (Intermediate AH2) (4.71 g, 18.26 mmol) was partitioned between DCM (300 mL) and 2M NaOH (20 mL). Allowed to Stir for 1 hour. The two phases were separated. The organic phase was reduced under vacuum to give the free base. This was dissolved in MeOH (60 mL), and stirred in a cooling bath at 0° C. (Ethoxymethylene)malononitrile (2.230 g, 18.26 mmol) added portionwise. The reaction mixture was then allowed to warm to ambient temperature and stirred for 1 hour. The mixture was then heated to reflux and stirred for 16 hours. Allowed to cool to ambient temperature. The reaction mixture was concentrated to give a solid, which was triturated under MeOH. A solid was filtered off. This was dried to afford the product (4.59 g, 85%). 1H NMR (400 MHz, DMSO) δ 6.79 (2H, s), 7.54-7.47 (1H, m), 7.70 (1H, dd), 7.79 (1H, s), 7.81 (1H, d). m/z (ES+) (M+H)+=299; HPLC tR=1.70 min.

reactant | (2-Bromo-6-chlorophenyl)hydrazine hydrochloride | 18.26 mmol, 4.71 g | Cl.BrC1=C(C(=CC=C1)Cl)NN
reactant | DCM | 300 mL | C(Cl)Cl | CH2Cl2
reactant | NaOH | 2M, 20 mL | [OH-].[Na+]
reactant | (Ethoxymethylene)malononitrile | 18.26 mmol, 2.230 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | MeOH | 60 mL | CO | CH4O
product | 5-amino-1-(2-bromo-6-chlorophenyl)-1H-pyrazole-4-carbonitrile | 4.59 g, 85% | NC1=C(C=NN1C1=C(C=CC=C1Cl)Br)C#N | C10H6BrClN4
